US08735411B2
Ethyl 1,3-dimethyl-5-oxo-6,7,8,9-tetrahydro-5H-benzo[7]annulene-6-carboxylate
A solution of 5,7-dimethyl-3,4-dihydronaphthalen-1(2H)-one (1 g, 5.74 mmol) in anhydrous CH2Cl2 (20 mL) under nitrogen atmosphere was cooled to 0° C. To this solution was added triethyloxonium tetrafluoroborate (1M in CH2Cl2, 23 mL, 23 mmol), followed with ethyl diazoacetate (1.2 mL, 11.5 mmol). The mixture was stirred at ambient temperature for 16 hrs. The reaction was worked up with saturated sodium bicarbonate, diluted with water and CH2Cl2, and the layers were separated. The organic layer was dried with MgSO4, concentrated and the residue was purified by chromatography on silica gel eluting with 10% EtOAc/Hexanes to provide the title compound. 1H NMR (CD3OD) δ 1.29 (t, 3H), 1.97-2.12 (m, 4H), 2.28-2.30 (m, 3H), 2.30-2.31 (m, 3H), 2.59 (t, 2H), 4.28 (q, 2H), 6.86-6.90 (m, 1H), 6.95-6.99 (m, 1H), 13.17-13.22 (m, 1H). MS (M+H)+ m/z 261.

reactant | 5,7-dimethyl-3,4-dihydronaphthalen-1(2H)-one | 5.74 mmol, 1 g | CC1=C2CCCC(C2=CC(=C1)C)=O | C12H14O
reactant | triethyloxonium tetrafluoroborate | 23 mmol, 1M, 23 mL | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | ethyl diazoacetate | 11.5 mmol, 1.2 mL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Ethyl 1,3-dimethyl-5-oxo-6,7,8,9-tetrahydro-5H-benzo[7]annulene-6-carboxylate | CC1=CC(=CC2=C1CCCC(C2=O)C(=O)OCC)C | C16H20O3
